data/pmechdb/original/mc_train_fold0/raw/train.txt
CC(=[C+]C[Si:20](C)(C)C)C(C1=CC=CC=C1)OC.[O-:10]Cl(=O)(=O)=O.COC(C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3>>CC(=[C+]C[Si-:20](C)(C)(C)[O:10]Cl(=O)(=O)=O)C(C1=CC=CC=C1)OC.COC(C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3 10=20,
[B-]([O+:21]=[C:20](C)[O:10][CH:11]1C(C(C(C([O:12]1)COC(=O)C)OC(=O)C)OC(=O)C)OC(=O)C)(F)(F)F.C1=CC=C(C=C1)O>>[B-]([O:21][C:20](=[O:10])C)(F)(F)F.CC(=O)OCC1C(C(C([CH:11]=[O+:12]1)OC(=O)C)OC(=O)C)OC(=O)C.C1=CC=C(C=C1)O 10,11=10,20;20,21=21;12=11
COCC1C(C[CH:20]([O:10]1)[N+:21]2=CC(=CC=C2)C3CCCCC3)O>>COCC1C(C[CH:20]=[O+:10]1)O.C1CCC(CC1)C2=CC=C[N:21]=C2 10=20;20,21=21
C[C:11](=[O:10])[NH:12]CCC1=CC(=CC=C1)OC.[O:21]=[P:20](Cl)(Cl)Cl>>C[C:11](=[NH+:12]CCC1=CC(=CC=C1)OC)[O:10][P:20]([O-:21])(Cl)(Cl)Cl 10,11=10,20;20,21=21;12=11
CO[C:20](C1CC(CN1C(=O)OCC2=CC=CC=C2)O)([OH2+:21])[OH:10].CO.OS(=O)(=O)[O-]>>CO[C:20](=[OH+:10])C1CC(CN1C(=O)OCC2=CC=CC=C2)O.[OH2:21].CO.OS(=O)(=O)[O-] 10=20;20,21=21
CCC1CCC[C+:20](C1)C.CC[OH:10]>>CCC1CCC[C:20](C1)(C)[OH+:10]CC 10=20,
C1CC2(CC[C:20]1([N:10]3CCOCC3)[OH2+:21])OCCO2.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>C1CC2(CC[C:20]1=[N+:10]3CCOCC3)OCCO2.[OH2:21].CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
C1=CC=C(C=C1)OCCC(=O)[Cl:10].[Al:20](Cl)(Cl)Cl>>C1=CC=C(C=C1)OCCC(=O)[Cl+:10][Al-:20](Cl)(Cl)Cl 10=20,
C1=C[C:12]2=[C:13](C=C1)[NH:14][C:20]([C:10](=[C:11]2O)[N+](=O)[O-])([O:21]P(=O)(Cl)Cl)Cl.CCN(CC)CC>>C1=C[C:12]2=[C:11]([C:10](=[C:20]([NH+:14]=[C:13]2C=C1)Cl)[N+](=O)[O-])O.[O-:21]P(=O)(Cl)Cl.CCN(CC)CC 10,11=10,20;20,21=21;12,13=11,12;14=13
C[Si-:10](C)(C)(OS(=O)(=O)C)[O:11]S(=O)(=O)C>>C[Si:10](C)(C)OS(=O)(=O)C.CS(=O)(=O)[O-:11] 10,11=11
[H:20][O+:21](CC)S(N(CC)CC)(F)F.[F-:10]>>[H:20][F:10].CCN(CC)S([O:21]CC)(F)F 10=20;20,21=21
CC(C)[C+:20](C)C.[OH2:10]>>CC(C)[C:20](C)(C)[OH2+:10] 10=20,
C[C:20](=[O:21])CC(=O)OC.C[NH:10]CC1=CC=CC=C1.CC(=O)O>>C[C:20](CC(=O)OC)([NH+:10](C)CC1=CC=CC=C1)[O-:21].CC(=O)O 10=20;20,21=21
[H:20][CH:21](CCC1=CC(=CC=C1)OC)[C:22](=[O:23])CCC2(C(=O)CCC2=O)C.CC[O-:10]>>[H:20][O:10]CC.CC1(C(=O)CCC1=O)CC[C:22](=[CH:21]CCC2=CC(=CC=C2)OC)[O-:23] 10=20;22,23=23;20,21=21,22
CC(C(=O)NC1CCCCC1)[NH2+:21][C:20](=O)[O-:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-]>>CC(C(=O)NC1CCCCC1)[NH2:21].[C:20](=O)=[O:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-] 10=20;20,21=21
[H:20][CH:21]1C2CCC([C:22]1=[NH+:23]CC3=CC=CC=C3)(C2(C)C)C(=O)OCC.C1=CC=[N:10]C=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].O>>[H:20][N+:10]1=CC=CC=C1.CCOC(=O)C12CCC(C1(C)C)[CH:21]=[C:22]2[NH:23]CC3=CC=CC=C3.CC1=CC=C(C=C1)S(=O)(=O)[O-].O 10=20;22,23=23;20,21=21,22
[H:20][C:21]12C=C(CCCC1(C(C[C+:22]2C(C)C)O[Sn-](Cl)(Cl)(Cl)Cl)C)C.[Cl-:10]>>[H:20][Cl:10].CC1=C[C:21]2=[C:22](CC(C2(CCC1)C)O[Sn-](Cl)(Cl)(Cl)Cl)C(C)C 10=20;20,21=21,22
[H:20][O:21]S(=O)(=O)O.CC1(CCC2=C([O:10]1)C=CC=C2)C>>[H:20][O+:10]1C2=C(CCC1(C)C)C=CC=C2.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][C:21](C)(C(=O)C)[C:22](=[O:23])C.[H:10][Na:11]>>C[C:21](=[C:22](C)[O-:23])C(=O)C.[H:10][H:20].[Na+:11] 10,11=10,20;22,23=23;20,21=21,22
[H:20][Cl:21].CC1CCCC([C:11](=[CH:10]1)C)C2=CC=CC=C2>>[H:20][CH:10]1C(CCCC([C+:11]1C)C2=CC=CC=C2)C.[Cl-:21] 10,11=10,20;20,21=21
[B-:13]1(OC(C(O1)C(=O)OC(C)C)C(=O)OC(C)C)([CH2:12][CH:11]=[CH2:10])[O+:21]=[CH:20]C2(COC(OC2)(C)C)C>>[B:13]1(OC(C(O1)C(=O)OC(C)C)C(=O)OC(C)C)[O:21][CH:20]([CH2:10][CH:11]=[CH2:12])C2(COC(OC2)(C)C)C 10,11=10,20;20,21=21;12,13=11,12
C[N:10](C)N.COC1=CC=C(C=C1)[CH2:20][Cl:21]>>C[N+:10](C)([CH2:20]C1=CC=C(C=C1)OC)N.[Cl-:21] 10=20;20,21=21
CCC(=O)O[C:13]1=[CH:12][CH:11]=[CH:10]C=C1.[Br:20][Br:21]>>CCC(=O)O[C+:13]1C=C[CH:10]([CH:11]=[CH:12]1)[Br:20].[Br-:21] 10,11=10,20;20,21=21;12,13=11,12
[H:20][Cl:21].N(=O)[O-:10].[B-](F)(F)(F)F.CC12CCC3C(C1CCC2=O)CCC4=C3C=CC(=C4N)OC.[Na+]>>[H:20][O:10]N=O.[Cl-:21].[B-](F)(F)(F)F.CC12CCC3C(C1CCC2=O)CCC4=C3C=CC(=C4N)OC.[Na+] 10=20;20,21=21
[H:20][NH:21]C(=O)C.CC#[C-:10]>>[H:20][C:10]#CC.CC(=O)[NH-:21] 10=20;20,21=21
[H:20][OH:21].CC1(CC(CC(O1)CC(C(CO[Si](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)[N-:10][P+](C5=CC=CC=C5)(C6=CC=CC=C6)C7=CC=CC=C7)OC)OCC8=CC=C(C=C8)OC)OC.N#N>>[H:20][N:10](C(CO[Si](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)C(CC4CC(CC(O4)(C)OC)OCC5=CC=C(C=C5)OC)OC)[P+](C6=CC=CC=C6)(C7=CC=CC=C7)C8=CC=CC=C8.[OH-:21].N#N 10=20;20,21=21
CC[NH2+:21][C:20](C=C)(O)[OH:10]>>CC[NH2:21].C=C[C:20](=[OH+:10])O 10=20;20,21=21
CC1=CC=C(C=C1)S(=O)(=O)OC(C)CCO[S:20](=O)(C(F)(F)F)([O-:10])[O:21]S(=O)(=O)C(F)(F)F>>C(F)(F)(F)S(=O)(=O)[O-:21].CC1=CC=C(C=C1)S(=O)(=O)OC(C)CCO[S:20](=O)(=[O:10])C(F)(F)F 10=20;20,21=21
C[C:11](=[CH2:10])[N:12]1CCCC1.CC(=O)O[C:20](=[O:21])C=C>>C[C:11](=[N+:12]1CCCC1)[CH2:10][C:20](C=C)([O-:21])OC(=O)C 10,11=10,20;20,21=21;12=11
[H:10][AlH3-:11].C(C=C[CH:20]=[O:21])[O-]>>[H:10][CH:20](C=CC[O-])[O-:21].[AlH3:11] 10,11=10,20;20,21=21
CC(=O)O[C:20](=[O:21])C.COC(CN1C(=NC=C(C1=O)C(=O)N[OH:10])C2=CC=CC=C2)OC.C1=CC=NC=C1>>CC(=O)O[C:20](C)([O-:21])[OH+:10]NC(=O)C1=CN=C(N(C1=O)CC(OC)OC)C2=CC=CC=C2.C1=CC=NC=C1 10=20;20,21=21
